US04963530
To a solution of 2(S)-(N-morpholinocarbonyl-L-phenylalanyl-Nα -methyl-L-histidyl)amino-1-cyclohexyl-3(S)-hydroxy-6-methylheptane (1.00 g) in ethanol (10 ml) which was cooled to 0° C., was added 4N hydrogenchloride in dioxane (0.47 ml). After the mixture was stirred at the same temperature for 10 minutes, the solvent was evaporated under reduced pressure. This residue was crystallized from ethanol (1 ml) and ethyl acetate (30 ml) to give 2(S)-(N-morpholinocarbonyl-L-phenylalanyl-Nα -methyl-L-histidyl)amino-1-cyclohexyl-3(S)-hydroxy-6-methylheptane monohydrochloride (860 mg).

reactant | 2(S)-(N-morpholinocarbonyl-L-phenylalanyl-Nα -methyl-L-histidyl)amino-1-cyclohexyl-3(S)-hydroxy-6-methylheptane | 1.00 g | O1CCN(CC1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N([C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1CCCCC1)[C@H](CCC(C)C)O)C | C35H54N6O5
reactant | hydrogenchloride | 4N | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | dioxane | 0.47 ml | O1CCOCC1 | C4H8O2
product | 2(S)-(N-morpholinocarbonyl-L-phenylalanyl-Nα -methyl-L-histidyl)amino-1-cyclohexyl-3(S)-hydroxy-6-methylheptane monohydrochloride | 860 mg | Cl.O1CCN(CC1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N([C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1CCCCC1)[C@H](CCC(C)C)O)C | InChI=1S/C35H54N6O5.ClH/c1-25(2)14-15-32(42)29(20-26-10-6-4-7-11-26)38-33(43)31(22-28-23-36-24-37-28)40(3)34(44)30(21-27-12-8-5-9-13-27)39-35(45)41-16-18-46-19-17-41;/h5,8-9,12-13,23-26,29-32,42H,4,6-7,10-11,14-22H2,1-3H3,(H,36,37)(H,38,43)(H,39,45);1H/t29-,30-,31-,32-;/m0./s1
